US04814112
Preparation of N-palmitoyltetrazole:
Example 2 is repeated to react palmitoyl chloride with tetrazole in a molar ratio of 1:2.

reactant | palmitoyl chloride | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | tetrazole | N1N=NN=C1 | CH2N4
product | N-palmitoyltetrazole | C(CCCCCCCCCCCCCCC)(=O)N1N=NN=C1 | C17H32N4O
